US04892966
63.6 g (0.6 mol) of sodium carbonate and 2.3 g (0.01 mol) of benzyltriethylammonium chloride are suspended in 250 ml of acetonitrile. While stirring there are added thereto 87.0 g (0.5 mol) of methyl 4-acetoxyacetoacetate and there are added dropwise thereto within 5 minutes 69.4 g (0.75 mol) of chloroacetone. The mixture is stirred at 20°-25° C. for a further 46 hours. The reaction mixture is poured on to 1 liter of 10% NaH2PO4 solution/ice (pH value=5) and extracted 3 times with 300 ml of ethyl acetate each time. The combined organic phases are dried over magnesium sulphate and concentrated completely on a rotary evaporator to give 105.9 g (92%) of methyl 4-acetoxy-2-acetonylacetoacetate, content 76.9%; b.p. 119°-121° C./0.06 mbar.

reactant | sodium carbonate | 0.6 mol, 63.6 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | methyl 4-acetoxyacetoacetate | 0.5 mol, 87.0 g | C(C)(=O)OCC(CC(=O)OC)=O | C7H10O5
reactant | chloroacetone | 0.75 mol, 69.4 g | ClCC(C)=O | C3H5ClO
catalyst | benzyltriethylammonium chloride | 0.01 mol, 2.3 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
product | methyl 4-acetoxy-2-acetonylacetoacetate | 105.9 g, 92% | C(C)(=O)OCC(C(C(=O)OC)CC(=O)C)=O | C10H14O6
